US08461271B2
Production of Maleic Anhydride/Decene-1/Reactive Polypropylene Copolymer Prepared in Production Example 5 Graft Copolymer
Decene-1 23.0 g and maleic anhydride 15.7 g were added thereto and dissolved. Toluene 30 ml dissolving azobisisobutyronitrile 1 g was added in 3 hours. After adding, they were reacted at the same temperature for 4 hours.

reactant | Decene-1 | 23.0 g | CCCCCCCCC=C | C10H20
reactant | maleic anhydride | 15.7 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | azobisisobutyronitrile | 1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | Toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | Maleic Anhydride Decene-1 | C1(\C=C/C(=O)O1)=O.CCCCCCCCC=C | InChI=1S/C10H20.C4H2O3/c1-3-5-7-9-10-8-6-4-2;5-3-1-2-4(6)7-3/h3H,1,4-10H2,2H3;1-2H
